US05319133
C. Preparation of 2-methyl decanamide
2-Methyl decanoyl chloride (68.9 g, 336 mmol) was added dropwise to rapidly stirred ammonium hydroxide (200 ml) cooled in an ice bath. The resulting white slurry was stirred at room temperature for one-half hour, then filtered through a Buchner funnel. The filter cake was washed with 100 ml of ice water, air-dried overnight, then dried in a vacuum over at 55° C. for 2 hours to give 53 g (85.5% yield) of a white solid product, m.p. 80°-81° C. (lit. m.p. 81.4° C.).

reactant | 2-Methyl decanoyl chloride | 336 mmol, 68.9 g | CC(C(=O)Cl)CCCCCCCC | C11H21ClO
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
product | 2-methyl decanamide | 53 g, 85.5% yield | CC(C(=O)N)CCCCCCCC | C11H23NO
